US04514416
Synthesis of 4-amidino-2,6-dibromophenyl 3,4-methylenedioxybenzoate
To a solution of 5 g of 4-amidino-2,6-dibromophenol in 100 ml of pyridine, while being cooled in ice and stirred, was added 2.4 g of piperonyl chloride. The mixture was stirred for 30 minutes while being cooled in ice, then for 3 hours at room temperature, and mixed with about 300 cc of ethyl ether. The precipitate which was formed was collected by filtration and recrystallized from ethanol to obtain 4.8 g of colorless crystals of 4-amidino-2,6-dibromophenyl 3,4-methylenedioxybenzoate methanesulfonate.

reactant | 4-amidino-2,6-dibromophenol | 5 g | C(N)(=N)C1=CC(=C(C(=C1)Br)O)Br | C7H6Br2N2O
reactant | piperonyl chloride | 2.4 g | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
reactant | ethyl ether | about 300 cc | C(C)OCC | C4H10O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2,6-dibromophenyl 3,4-methylenedioxybenzoate | 4.8 g | C1OC=2C=C(C(=O)OC3=C(C=C(C=C3Br)C(N)=N)Br)C=CC2O1 | C15H10Br2N2O4
